US08809372B2
To a stirred solution of 1-(5-bromopyridin-2-yl)ethanone (0.2 g, 1 mmol) in toluene (10 mL) and ethanol (5 mL) was added 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinonitrile (0.46 g, 2 mmol) and Pd(PPh3)4 (0.057 g, 0.05 mmol). The reaction mixture was purged with argon for 5 min, 2M Na2CO3 solution (3.5 mL, 0.74 g, 7 mmol) was added, and the reaction mixture was stirred at 75-80° C. for 6 h. The reaction mixture was cooled to room temperature, quenched with saturated sodium bicarbonate solution (2×100 mL), and extracted into ethyl acetate (2×100 mL). The organic layer was washed with brine and ice-cold water (2×100 mL), dried over sodium sulfate, filtered and concentrated under reduced pressure to obtain crude product. The crude product was purified by column chromatography (100-200μ silica gel, using 15-16% ethyl acetate in hexane) to obtain 6′-acetyl-[3,3′-bipyridine]-6-carbonitrile as white solid (0.18 g, 80% yield). 1H NMR (400 MHz, DMSO-d6): δ 9.24 (dd, 1H), 9.20 (dd, 1H), 8.54 (dd, 1H), 8.46 (dd, 1H), 8.23 (dd, 1H), 8.09 (dd, 1H), 2.68 (s, 3H); LC-MS m/z calculated for [M+H]+ 224.07, found 224.1.

reactant | 1-(5-bromopyridin-2-yl)ethanone | 1 mmol, 0.2 g | BrC=1C=CC(=NC1)C(C)=O | C7H6BrNO
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinonitrile | 2 mmol, 0.46 g | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C#N)C | C12H15BN2O2
reactant | Na2CO3 | 7 mmol, 2M, 3.5 mL, 0.74 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | Pd(PPh3)4 | 0.05 mmol, 0.057 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6′-acetyl-[3,3′-bipyridine]-6-carbonitrile | 0.18 g, 80% yield | C(C)(=O)C1=CC=C(C=N1)C=1C=NC(=CC1)C#N | C13H9N3O
